US05288428
A mixture of 0.5 g of sodium hydride and 50 ml of tetrahydrofuran was treated with 2.6 g of 1-bromo-4-[trans-4-[(E)-3-hydroxypropenyl]cyclohexyl]benzene while gassing with nitrogen, stirred for 2 hours, treated with 1.6 g of methyl iodide and subsequently stirred at room temperature overnight. The reaction mixture was treated with 500 ml of water and extracted four times with 50 ml of hexane each time, the combined organic phases were washed twice with 500 ml of water each time, dried over magnesium sulphate, the suspension was filtered and the filtrate was concentrated. The residue was purified by chromatography on silica gel with hexane and the product obtained was recrystallized from hexane at -78° C. to give 2.4 g of 1-bromo-4-[trans-4-[(E)-3-methoxypropenyl]cyclohexyl]benzene, m.p. (C-I) 47° C.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 1-bromo-4-[trans-4-[(E)-3-hydroxypropenyl]cyclohexyl]benzene | 2.6 g | BrC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)\C=C\CO | C15H19BrO
reactant | methyl iodide | 1.6 g | CI | CH3I
solvent | water | 500 ml | O | H2O
product | 1-bromo-4-[trans-4-[(E)-3-methoxypropenyl]cyclohexyl]benzene | 2.4 g | BrC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)\C=C\COC | C16H21BrO
